US04746664
To a suspension of 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)-2-(1H)pyrimidone (14.2 g) in N,N-dimethylformamide (1.42 ml) were added potassium hydroxide (5.5 g) and ethyl iodide (6.0 ml) and the mixture was stirred at ambient temperature for 2.5 hours. To the reaction mixture were added additional potassium tert-butoxide (5.0 g) and ethyl iodide (3.0 ml) and the mixture was stirred at ambient temperature for more 2 hours. The mixture was poured into ice-water (150 ml). The resulting precipitates were collected by filtration, air-dried and subjected to column chromatography on silica gel using a mixture of dichloromethane and methanol as an eluent to give 3,4-dihydro-6-(3,4-dimethoxyphenyl)-2-ethoxy-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine (0.135 g).

reactant | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)-2-(1H)pyrimidone | 14.2 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1)=O)C)=NC1=C(C=C(C=C1C)C)C | C22H25N3O3
reactant | potassium hydroxide | 5.5 g | [OH-].[K+]
reactant | ethyl iodide | 6.0 ml | C(C)I | C2H5I
reactant | potassium tert-butoxide | 5.0 g | CC(C)([O-])C.[K+]
reactant | ethyl iodide | 3.0 ml | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 1.42 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-2-ethoxy-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine | 0.135 g | COC=1C=C(C=CC1OC)C1=CC(N(C(=N1)OCC)C)=NC1=C(C=C(C=C1C)C)C | C24H29N3O3
